* /usr/bin/xorn netlist --symbol-library /usr/share/gEDA/sym/misc --symbol-library /usr/share/gEDA/sym/relay --symbol-library /usr/share/gEDA/sym/opto --symbol-library /usr/share/gEDA/sym/supervisor --symbol-library /usr/share/gEDA/sym/pla --symbol-library /usr/share/gEDA/sym/rf --symbol-library /usr/share/gEDA/sym/tube --symbol-library /usr/share/gEDA/sym/transistor --symbol-library /usr/share/gEDA/sym/micro --symbol-library /usr/share/gEDA/sym/memory --symbol-library /usr/share/gEDA/sym/bus --symbol-library /usr/share/gEDA/sym/xilinx --symbol-library /usr/share/gEDA/sym/st --symbol-library /usr/share/gEDA/sym/philips --symbol-library /usr/share/gEDA/sym/national --symbol-library /usr/share/gEDA/sym/minicircuits --symbol-library /usr/share/gEDA/sym/maxim --symbol-library /usr/share/gEDA/sym/linear --symbol-library /usr/share/gEDA/sym/lattice --symbol-library /usr/share/gEDA/sym/irf --symbol-library /usr/share/gEDA/sym/idt --symbol-library /usr/share/gEDA/sym/dec --symbol-library /usr/share/gEDA/sym/apex --symbol-library /usr/share/gEDA/sym/amphenol --symbol-library /usr/share/gEDA/sym/altera --symbol-library /usr/share/gEDA/sym/allegro --symbol-library /usr/share/gEDA/sym/asicpads --symbol-library /usr/share/gEDA/sym/asic --symbol-library /usr/share/gEDA/sym/switcap --symbol-library /usr/share/gEDA/sym/spice --symbol-library /usr/share/gEDA/sym/cascade --symbol-library /usr/share/gEDA/sym/ecl --symbol-library /usr/share/gEDA/sym/4000 --symbol-library /usr/share/gEDA/sym/74 --symbol-library /usr/share/gEDA/sym/IEC417 --symbol-library /usr/share/gEDA/sym/titleblock --symbol-library /usr/share/gEDA/sym/switch --symbol-library /usr/share/gEDA/sym/radio --symbol-library /usr/share/gEDA/sym/power --symbol-library /usr/share/gEDA/sym/io --symbol-library /usr/share/gEDA/sym/diode --symbol-library /usr/share/gEDA/sym/connector --symbol-library /usr/share/gEDA/sym/analog --symbol-library /usr/share/gEDA/sym/local --symbol-library /home/test/workspace/hack/projects/ngspice-digital-read -g guile -O add-to-load-path=/usr/share/gEDA/scheme -O load=/usr/share/gEDA/scheme/gnetlist.scm -O load=/usr/share/gEDA/scheme/gnet-spice-sdb.scm -O load=/usr/share/gEDA/scheme/gnetlist-post.scm -O guile-proc=spice-sdb -O use-spice-netnames -v -o key-grid.net key-grid.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 1n4148.mod vvvvvvvv
.MODEL 1n4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 
*^^^^^^^^  End of included SPICE model from 1n4148.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Xc3r3 15 1 on-off-switch
Xc2r3 12 2 on-off-switch
Xc1r3 9 3 on-off-switch
Xc1r2 8 3 on-off-switch
Xc1r1 7 3 on-off-switch
Xc2r1 10 2 on-off-switch
Xc3r1 13 1 on-off-switch
Xc3r2 14 1 on-off-switch
Xc2r2 11 2 on-off-switch
Rr3 4 16 1K  
Rr2 5 16 1K  
Rr1 6 16 1K  
Vpup 16 0 5
Dc3r3 15 4 1N4148 
Dc3r2 14 5 1N4148 
Dc3r1 13 6 1N4148 
Dc2r3 12 4 1N4148 
Dc2r2 11 5 1N4148 
Dc2r1 10 6 1N4148 
Dc1r3 9 4 1N4148 
Dc1r2 8 5 1N4148 
Dc1r1 7 6 1N4148 
X6 6 io-pin
X5 5 io-pin
X4 4 io-pin
X1 3 io-pin
X2 2 io-pin
X3 1 io-pin
.end
